US07579469B2
To a solution of 1,1,1-trifluoro-4-methyl-4-[3-(2-methyl-[1,3]dioxolan-2-yl)phenyl]pentan-2-one (0.56 g, 1.8 mmol) in anhydrous DMSO (2.3 mL) was added the sodium ylide of trimethylsulfoxonium iodide (2.6 mL of a 0.8M solution in DMSO) over 5 minutes. The mixture was stirred 2 hours, quenched with water, and extracted with ethyl acetate. The combined organic layers were washed with water and brine, and dried over sodium sulfate. The solution was concentrated in vacuo to afford the yellow oil, 2-{3-[1,1-dimethyl-2-(2-trifluoromethyloxiranyl)ethyl]phenyl}-2-methyl-[1,3]dioxolane, which was used without further purification.

reactant | 1,1,1-trifluoro-4-methyl-4-[3-(2-methyl-[1,3]dioxolan-2-yl)phenyl]pentan-2-one | 1.8 mmol, 0.56 g | FC(C(CC(C)(C1=CC(=CC=C1)C1(OCCO1)C)C)=O)(F)F | C16H19F3O3
reactant | sodium | [Na] | Na
reactant | trimethylsulfoxonium iodide | [I-].C[S+](=O)(C)C
solvent | DMSO | 2.3 mL | CS(=O)C | C2H6OS
product | 2-{3-[1,1-dimethyl-2-(2-trifluoromethyloxiranyl)ethyl]phenyl}-2-methyl-[1,3]dioxolane | CC(CC1(OC1)C(F)(F)F)(C)C=1C=C(C=CC1)C1(OCCO1)C | C17H21F3O3
